US05866560
18.6 of copper(II) bromide and 3.6 g of lithium bromide are added to 16.5 g of 7α-(5-acetoxypentyl)-11β-fluoro-estr-4-ene-3,17-dione in 190 ml of acetonitrile at 80° C. After 15 minutes, the reaction mixture is stirred into sodium bicarbonate-containing ice water. The precipitated product is suctioned off, dissolved in ethyl acetate, washed with water, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient, 8.5 g of 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained as foam.

reactant | lithium bromide | 3.6 g | [Br-].[Li+]
reactant | 7α-(5-acetoxypentyl)-11β-fluoro-estr-4-ene-3,17-dione | 16.5 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C25H35FO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) bromide | [Cu](Br)Br
product | 7α-(5-acetoxypentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 8.5 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C25H33FO4
